US04243678
Analogously to Example 47b), 10.0 g of ethyl 4-(biphenyl-4-yl)aminobutyrate and 4.6 g of ethyldiisopropylamine in 70 ml of benzene are reacted with 6.2 g of p-chlorobenzoyl chloride to obtain 9.4 g (62.9% of theory) of ethyl 4-[p-chloro-N-(biphenyl-4-yl)benzamido]butyrate as a viscous non-distillable oil. Saponification of this ester, analogously to Example 47c), yields 7.0 g (79.7% of theory) of 4-[p-chloro-N-(biphenyl-4-yl)-benzamido]butyric acid, MP 192° to 194°.

reactant | ethyl 4-(biphenyl-4-yl)aminobutyrate | 10.0 g | C1(=CC=C(C=C1)NCCCC(=O)OCC)C1=CC=CC=C1 | C18H21NO2
reactant | ethyldiisopropylamine | 4.6 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | p-chlorobenzoyl chloride | 6.2 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | ethyl 4-[p-chloro-N-(biphenyl-4-yl)benzamido]butyrate | 9.4 g, 62.9% | ClC1=CC=C(C(=O)N(C2=CC=C(C=C2)C2=CC=CC=C2)CCCC(=O)OCC)C=C1 | C25H24ClNO3
